US07855297B2
By the reaction and treatment in the same manner as in Example 6 using N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.5 g) and 2-morpholino-2-oxoethyl chloride (0.33 g) as starting materials, N-(4-isopropylphenyl)-N-(2-morpholino-2-oxoethyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.43 g) was obtained. melting point: 180° C.

reactant | N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.5 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCCC2=CC=CC=C12 | C20H23NO
reactant | 2-morpholino-2-oxoethyl chloride | 0.33 g | O1CCN(CC1)C(CCl)=O | C6H10ClNO2
product | N-(4-isopropylphenyl)-N-(2-morpholino-2-oxoethyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.43 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CC(=O)N1CCOCC1 | C26H32N2O3
